US06274588B1
To a suspension of of 0.4 g (0.77 mmol) 2-methylsulfonyl-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide in 10 ml methanol 0.10 g (1.93 mmol) sodiummethanolat (95%) was added. The reaction mixture was stirred for 16 hrs. After evaporation of the solvent, the residue was distributed between 50 ml CH2Cl2 and 50 ml H2O. The aqueous layer was extracted with 50 ml CH2Cl2, the combined organic layers dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 40:1) to give 0.23 g (63%) 2-methoxy-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a colorless solid, m.p. 101.2-102°.

reactant | 2-methylsulfonyl-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.77 mmol, 0.4 g | FC(C=1C=C(CN(C(=O)C=2C(=NC(=NC2)S(=O)(=O)C)C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C22H17F6N3O3S
reactant | methanol | 1.93 mmol, 10 ml, 0.10 g | CO | CH4O
product | 2-methoxy-4-phenyl-pyrimidine-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.23 g, 63% | FC(C=1C=C(CN(C(=O)C=2C(=NC(=NC2)OC)C2=CC=CC=C2)C)C=C(C1)C(F)(F)F)(F)F | C22H17F6N3O2
